US04851412
(b) 3-(2-Hydroxyethyl)-2-methylimidazo[4,5-b]pyridine
2-(2-Hydroxyethylamino)-3-aminopyridine (3.4 g) was dissolved in acetic anhydride (140 ml) and stirred at reflux for 15 hours. The reaction mixture was cooled and the excess of reagent removed under reduced pressure. The dark brown oil was dissolved in ethanol (100 ml), 2N sodium hydroxide (50 ml) was added and the mixture was stirred for 15 minutes. The solution was acidified to pH5 using 2N hydrochloric acid and the solvents removed under reduced pressure. The residue was chromatographed over silica eluting with 10% methanol in ethyl acetate to yield the title compound (2.32 g, 59%) as a foam.

reactant | 2-(2-Hydroxyethylamino)-3-aminopyridine | 3.4 g | OCCNC1=NC=CC=C1N | C7H11N3O
reactant | acetic anhydride | 140 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-(2-Hydroxyethyl)-2-methylimidazo[4,5-b]pyridine | 2.32 g, 59% | OCCN1C(=NC=2C1=NC=CC2)C | C9H11N3O
